US07598383B2
2-(2-Fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methoxy-amide
2-(2-Fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester was coupled as described previously in Example 155 using O-methyl-hydroxylamine. MS ESI (+) m/z 418 (M+1) detected.

reactant | 2-(2-Fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)I)F | C14H12FIN2O3
reactant | O-methyl-hydroxylamine | CON | CH5NO
product | 2-(2-Fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methoxy-amide | CONC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)I)F | C14H13FIN3O3
